Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:4]([H:11])[C@:6]([O:5][H:12])([H:13])[O:7][O:3]1)([H:8])([H:9])[H:10],74.4949030546132
[O:1]=[C:7]([C:6]1=[C:2]([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],88.9345181303111
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]1=[N:6][H:8],101.511547311719
[N:1]([C-:2]=[O+:3][C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],19.556781012917696
[C+:4](=[C:5]=[N-:6])[H:12].[C:1]([C:2]([O:3][H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],4.258409819362413
[C:1]([H:7])([H:8])([H:9])[H:15].[O:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])[H:16]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],82.36650442151375
[C+:1]([N:2]([C+:3]([O-:4])[C@@:5]([C:6]([H:13])([H:14])[H:15])([C-:7]([H:17])[H:18])[H:12])[H:11])([H:9])[H:10].[H:8][H:16]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],5.601969223695804
[C:1]([C:2](=[C:3]1[C+:4]([H:13])[N:5]([H:14])[N-:6][N:7]1[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],35.8625194377731
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:7])[H:10])([H:8])[H:9].[C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:11])([H:12])[H:13],106.579401838366
[N:1]([C@@:2]([O:3][H:15])([N:4]([C:5]([H:11])([H:12])[H:14])[H:10])[C:6](=[O:7])[H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],81.8696276122532
[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11].[C:5](#[N:6])[H:7].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],33.67206588582799
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:14])([H:15])[C:6]([H:13])([H:16])[C:5]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],29.384490882527793
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C@@:2]1([C:3](=[O:4])[H:12])([H:11])/[C:5](=[N:7]/[H:13])[O:6]1,85.756454356025
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C@:6]1([C:7][H:15])[H:10],82.9637057748385
[N:1]([C:2](=[O+:3][C:4](=[C:5]=[N-:6])[H:9])[H:8])([H:7])[H:10]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],2.9314550924760994
[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[C:4]=[O:5])[H:11])([H:8])([H:9])[H:10].[O:6]([C:7]([H:13])([H:14])[H:15])[H:12],66.4433678690155
[N:1]([N:4]([N+:3]#[C-:2])[C:5]([N:6]([H:10])[H:11])=[O:7])([H:8])[H:9]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],45.0769808812495
[C:1](/[C:2](=[C:7](\[C:3](=[C:4]([H:13])[H:14])[H:12])[H:17])[H:11])([H:8])([H:9])[H:10].[C:5](#[C:6][H:16])[H:15]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],46.506026904383894
[C:2](=[O:3])=[N:4][C:5](=[N:6][H:11])[H:10].[N:1]([H:7])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8],26.5482844010998
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:12])[H:16])\[H:15],59.5576651095205
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][C@@:5]1([H:12])[C:3](=[C:2]([H:10])[H:11])[O:4]1)([H:7])([H:8])[H:9],80.51957669978249
[O:1]=[C:4]([N:5](/[C:6](=[N:7]\[C:2]#[C:3][H:8])[H:11])[H:10])[H:9]>>[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1,80.19692897399571
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16]>>[C:1]([C:2]([H:9])([H:10])[H:16])([C:3]1=[C:6]([H:15])[C:5]([H:13])([H:14])[C:4]1([H:11])[H:12])([H:7])[H:8],68.22060166239899
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]1([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17].[O:6]([H:7])[H:18],81.6128992852132
